US08420816B2
4-(4-ethyl-1-(pyrimidin-4-yl)piperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one
4-(4-Ethylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one (10 mg, 0.035 mmol), triethylamine (0.049 mL, 0.352 mmol), and 4-chloropyrimidine (8 mg, 0.070 mmol) were dissolved in DMF (1.5 mL) and heated under microwave irradiation at 140° C. for 30 min. The solution was concentrated in vacuo and purified via preparative HPLC 10% to 40% B in A and gave 6.5 mg of the title compound as its TFA salt. 1H NMR (400 MHz, CD3OD) δ 8.66 (s, 1H), 8.14 (dd, 1H, J=7.6, 1.3 Hz), 7.51 (s, 1H), 7.37 (s, 1H), 7.11 (d, 1H, J=7.5 Hz), 5.14 (s, 2H), 4.27 (m, 1H), 4.11 (m, 1H), 3.86-3.87 (m, 1H), 3.80-3.82 (m, 1H), 2.86 (m, 1H), 2.73 (m, 1H), 2.38 (m, 1H), 2.24-2.31 (m, 4H), 0.99 (t, 3H, J=7.6 Hz). MS (ES) [M+H] found 363.

reactant | 4-(4-Ethylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 0.035 mmol, 10 mg | C(C)C1(CCNCC1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C16H20N4O
reactant | triethylamine | 0.352 mmol, 0.049 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloropyrimidine | 0.070 mmol, 8 mg | ClC1=NC=NC=C1 | C4H3ClN2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-(4-ethyl-1-(pyrimidin-4-yl)piperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 6.5 mg | C(C)C1(CCN(CC1)C1=NC=NC=C1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C20H22N6O
